### PR TITLE
[Merged by Bors] - feat: grind golfing in Topology/Path

### PR DESCRIPTION
**Pull request by kim-em**
This is not as exhaustive as I would have liked; there's plenty more cleanup to do here. But I need to pause on this for now and I think it's an improvement.

### CODE REVIEW

File: Mathlib/AlgebraicTopology/FundamentalGroupoid/Basic.lean [hunk 1]
```diff
@@ -38,36 +38,19 @@ def reflTransSymmAux (x : I × I) : ℝ :=
   if (x.2 : ℝ) ≤ 1 / 2 then x.1 * 2 * x.2 else x.1 * (2 - 2 * x.2)
 
 @[continuity, fun_prop]
-theorem continuous_reflTransSymmAux : Continuous reflTransSymmAux := by
-  refine continuous_if_le ?_ ?_ (Continuous.continuousOn ?_) (Continuous.continuousOn ?_) ?_
-  iterate 4 fun_prop
-  intro x hx
-  norm_num [hx, mul_assoc]
+theorem continuous_reflTransSymmAux : Continuous reflTransSymmAux :=
+  continuous_if_le (by fun_prop) (by fun_prop) (by fun_prop) (by fun_prop) (by grind)
```
Comment (grunweg) [inline Mathlib/AlgebraicTopology/FundamentalGroupoid/Basic.lean:42]: It's nice that grind can do a lot here... but actually, you can also use fun_prop more cleverly:
```suggestion
attribute [fun_prop] continuous_if_le

@[continuity, fun_prop]
theorem continuous_reflTransSymmAux : Continuous reflTransSymmAux := by
  have : ∀ (x : I × I), x.2 = 1 / (2 : ℝ) → ↑x.1 * 2 * ↑x.2 = x.1 * ((2 : ℝ) - 2 * x.2) := by
    intro x hx; norm_num [hx, mul_assoc]
  unfold reflTransSymmAux; fun_prop (discharger := assumption)
```

If the attribute is moved to its proper place, this proof is almost as short as the grind proof, but feels much nicer to read. (And you could grind that, I don't mind that at all.)

File: Mathlib/AlgebraicTopology/FundamentalGroupoid/Basic.lean [hunk 2]
```diff
@@ -98,11 +81,8 @@ def transReflReparamAux (t : I) : ℝ :=
   if (t : ℝ) ≤ 1 / 2 then 2 * t else 1
 
 @[continuity, fun_prop]
-theorem continuous_transReflReparamAux : Continuous transReflReparamAux := by
-  refine continuous_if_le ?_ ?_ (Continuous.continuousOn ?_) (Continuous.continuousOn ?_) ?_ <;>
-    [fun_prop; fun_prop; fun_prop; fun_prop; skip]
-  intro x hx
-  simp [hx]
+theorem continuous_transReflReparamAux : Continuous transReflReparamAux :=
+  continuous_if_le (by fun_prop) (by fun_prop) (by fun_prop) (by fun_prop) (by grind)
```
Comment (grunweg) [inline Mathlib/AlgebraicTopology/FundamentalGroupoid/Basic.lean:85]: The same trick doesn't work here, though (and I haven't yet deeply debugged why).

**Review by grunweg — COMMENTED** [review]
One comment about a fun_prop golf.

File: Mathlib/AlgebraicTopology/FundamentalGroupoid/Basic.lean (hunk 1 above)
Comment (j-loreaux) [reply Mathlib/AlgebraicTopology/FundamentalGroupoid/Basic.lean:42]: I disagree here. I think the `continuous_if_le` proof is nicer here, and I'm not sure that `continuous_if_le` should be marked `fun_prop`. That's a pretty messy condition to discharge.

**Review by j-loreaux — COMMENTED** [review]
I'm content with this as is, but I'll let @grunweg decide if he really wants to push for the `fun_prop` attribute on `continuous_if_le`.

bors d=grunweg

File: Mathlib/AlgebraicTopology/FundamentalGroupoid/Basic.lean (hunk 1 above)
Comment (kim-em) [reply Mathlib/AlgebraicTopology/FundamentalGroupoid/Basic.lean:42]: Okay, given the disagreement I'll leave this as is and mark as resolved. Changes like this could be pursued elsewhere.

**Comment by kim-em** [comment]
@grunweg let me know how you'd like to proceed.
